US09238640B2
A solution of n-butyllithium (1.6 M solution in hexanes, 6.32 mL, 12.6 mmol) in THF (50 mL) was cooled to −78° C. A solution of 4-bromo-2-methyl-pyridine (2.00 g, 11.6 mmol.) in anhydrous THF (5 mL) was added. The resulting mixture was stirred for 5 minutes, then anhydrous N,N dimethylformamide (3.39 g, 46.4 mmol,) was added. The solution was stirred for 90 min at −78° C. and quenched with saturated aqueous NH4Cl solution (30 mL). The reaction mixture was warmed to room temperature. The mixture was extracted with ethyl acetate (3×100 mL), and the combined organic phase was washed with brine (100 mL) and dried over anhydrous Na2SO4. The solvent was evaporated under reduced pressure to give 2-methyl-pyridine-4-carbaldehyde. Yield: 1.20 g, (85%).

reactant | n-butyllithium | 12.6 mmol, 1.6 M, 6.32 mL | C(CCC)[Li]
reactant | 4-bromo-2-methyl-pyridine | 11.6 mmol, 2.00 g | BrC1=CC(=NC=C1)C | C6H6BrN
reactant | N,N dimethylformamide | 46.4 mmol, 3.39 g | CN(C=O)C | C3H7NO
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-methyl-pyridine-4-carbaldehyde | CC1=NC=CC(=C1)C=O | C7H7NO
